US09238639B2
(4-Chloro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
A mixture of methyl(4-chloro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate (1.9 g), 1N NaOH (10 mL), THF (10 mL) and MeOH (10 mL) was stirred at room temperature for 4 h. To the mixture were added 1N HCl (10 mL) and water, and the mixture was extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residual solid was washed with hexane to give the crystals (1.75 g). The crystals were recrystallized from acetone-heptane to give the title compound.

reactant | methyl(4-chloro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 1.9 g | COC(CC1=CSC2=C1C(=CC(=C2)OCC2=CC(=NN2C)C(F)(F)F)Cl)=O | C17H14ClF3N2O3S
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | water | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | (4-Chloro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 1.75 g | ClC1=CC(=CC2=C1C(=CS2)CC(=O)O)OCC2=CC(=NN2C)C(F)(F)F | C16H12ClF3N2O3S
